US06027854
The thus obtained partially hydroxycarbonylmethylated polyhydroxystyrene, 90 g, was dissolved in 180 g of N,N-dimethylformamide. With stirring under ice cooling, 40.5 g of triethylamine and then 1.7 g of ethylene glycol di(1-chloroethyl) ether were added. Reaction was carried out for 30 minutes under ice cooling, 24.2 g of chlorotrimethylsilane was added, and reaction was carried out for a further 2 hours at room temperature. To the reaction mixture were added 500 g of ethyl acetate and 300 g of water, followed by separation. The ethyl acetate layer was washed twice with 300 g of water and then concentrated in vacuum. The residue was dissolved in 300 g of methanol and added dropwise to 20 liters of water whereupon a powdery solid precipitated. The solid was collected by filtration, washed with 20 liters of water, and dried in vacuum at 40° C. for 24 hours. On 1H-NMR analysis, it was identified to be a polymer (Polym. 9) in which 25.0 mol % of the hydrogen atoms of hydroxyl groups in polyhydroxystyrene were replaced by trimethylsilyl groups, and the carboxyl group moieties which had been introduced in an amount of 2.0 mol % formed ester bonds with alcoholic hydroxyl groups of ethylene glycol di(1-hydroxyethyl) ether to provide crosslinking.

reactant | triethylamine | 40.5 g | C(C)N(CC)CC | C6H15N
reactant | ethylene glycol di(1-chloroethyl) ether | 1.7 g | ClC(C)OCCOC(C)Cl | C6H12Cl2O2
reactant | chlorotrimethylsilane | 24.2 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | ethyl acetate | 500 g | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 180 g | CN(C=O)C | C3H7NO
solvent | water | 300 g | O | H2O
product | ethylene glycol di(1-hydroxyethyl) ether | OC(C)OCCOC(C)O | C6H14O4
